US04960771
Preparation of 4,5-diisopropoxy-1-butyl-3-propylimidazolidin-2-one
Example 11 was repeated with 4.21 g of 1-butyl-3-propylurea, 4 ml of 40% aqueous glyoxal, 80 ml of isopropyl alcohol and 1 ml of conc. sulfuric acid. After work up and silica gel chromatography gave 2.6 g (33%) of an oil.

reactant | 1-butyl-3-propylurea | 4.21 g | C(CCC)NC(=O)NCCC | C8H18N2O
reactant | glyoxal | 4 ml | C(=O)C=O | C2H2O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | 4,5-diisopropoxy-1-butyl-3-propylimidazolidin-2-one | 2.6 g, 33% | C(C)(C)OC1N(C(N(C1OC(C)C)CCCC)=O)CCC | C16H32N2O3
